US07947688B2
1.25 g (4.32 mmol) of N-(3-acetyl-phenyl)-N-methyl-benzenesulfonamide were dissolved in 10 ml of N,N-dimethylformamide dimethylacetal and the resultant solution was refluxed for 18 hours. The excess of volatile reagent was removed by reduced pressure distillation to yield a crude which was chromatographied over silica gel using a gradient of ethyl acetate/methanol as eluent. 1.25 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methyl-benzenesulfonamide as a yellowish-white solid were obtained (yield 84%).

reactant | N-(3-acetyl-phenyl)-N-methyl-benzenesulfonamide | 4.32 mmol, 1.25 g | C(C)(=O)C=1C=C(C=CC1)N(S(=O)(=O)C1=CC=CC=C1)C | C15H15NO3S
reactant | N,N-dimethylformamide dimethylacetal | 10 ml | COC(N(C)C)OC | C5H13NO2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methyl-benzenesulfonamide | 1.25 g, yield 84% | CN(C=CC(=O)C=1C=C(C=CC1)N(S(=O)(=O)C1=CC=CC=C1)C)C | C18H20N2O3S
